US08008303B2
(S)-2-{4′-[4-(4-Methanesulfonyl-piperazin-1-ylmethyl)-phenylcarbamoyl]-6-trifluoromethoxy-biphenyl-3-ylcarbamoyl}-azetidine-1-carboxylic acid
A mixture of (S)-2-{4′-[4-(4-Methanesulfonyl-piperazin-1-ylmethyl)-phenylcarbamoyl]-6-trifluoromethoxy-biphenyl-3-ylcarbamoyl}-azetidine-1-carboxylic acid tert-butyl ester in dioxan (5 ml) was treated with conc. hydrochloric acid (3 ml) and the mixture stirred at room temp for 18 h. The mixture was then carefully basified with solid potassium carbonate and the mixture then was extracted with DCM. The residue was then purified on silica gel. Elution initially with DCM:EtOH:ammonia; 200:8:1 gave a colourless foam (impure). Further purification eluting with DCM:MeOH:AcOH:water; 90:10:1:1 gave a colourless gum (nmr suggests probably acetate salt of desired product). This material was then dissolved in DCM:EtOH:ammonia;25:8:1 and then passed down an SCX cartridge giving the title compound as a colourless solid (14 mg). This material is still not entirely pure as shown by 1H NMR. No further purification of this material was carried out.

reactant | (S)-2-{4′-[4-(4-Methanesulfonyl-piperazin-1-ylmethyl)-phenylcarbamoyl]-6-trifluoromethoxy-biphenyl-3-ylcarbamoyl}-azetidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CC1)C(NC=1C=C(C(=CC1)OC(F)(F)F)C1=CC=C(C=C1)C(NC1=CC=C(C=C1)CN1CCN(CC1)S(=O)(=O)C)=O)=O | C35H40F3N5O7S
reactant | hydrochloric acid | 3 ml | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
product | (S)-2-{4′-[4-(4-Methanesulfonyl-piperazin-1-ylmethyl)-phenylcarbamoyl]-6-trifluoromethoxy-biphenyl-3-ylcarbamoyl}-azetidine-1-carboxylic acid | CS(=O)(=O)N1CCN(CC1)CC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1OC(F)(F)F)NC(=O)[C@H]1N(CC1)C(=O)O | C31H32F3N5O7S
